US03971786
The reaction of 4-aminobenzenesulphonamide (17.2 g) with sodium hydroxide, carbon disulphide and methyl iodide by the method described in Example 8, afforded N-(4-aminobenzenesulphonyl)iminodithiocarbonic acid dimethyl ester (9.4 g), m.p. 202°-204° (from ethanol).

reactant | 4-aminobenzenesulphonamide | 17.2 g | NC1=CC=C(C=C1)S(=O)(=O)N | C6H8N2O2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | carbon disulphide | C(=S)=S | CS2
reactant | methyl iodide | CI | CH3I
reactant | ethanol | C(C)O | C2H6O
product | N-(4-aminobenzenesulphonyl)iminodithiocarbonic acid dimethyl ester | 9.4 g | CS(C(OC)=S)=NS(=O)(=O)C1=CC=C(C=C1)N | C9H12N2O3S3
